US04696927
A solution of 4-bromobutylisocyanate (15.1 g) in methylene chloride (50 ml) is added to a stirred solution of ethyl 3-amino-3-methylbutanoate (12.3 g), dissolved in methylene chloride (50 ml) at -20° C. The mixture is stirred for 30 minutes at -20° C. and then for an additional 2 hours at room temperature. Evaporation of the solvent yields a residue of ethyl 3-[(4-bromobutyl)aminocarbonylamino]-3-methylbutanoate (26 g).

reactant | 4-bromobutylisocyanate | 15.1 g | BrCCCCN=C=O | C5H8BrNO
reactant | ethyl 3-amino-3-methylbutanoate | 12.3 g | NC(CC(=O)OCC)(C)C | C7H15NO2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | ethyl 3-[(4-bromobutyl)aminocarbonylamino]-3-methylbutanoate | 26 g | BrCCCCNC(=O)NC(CC(=O)OCC)(C)C | C12H23BrN2O3
